US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (171 mg) was suspended in dichloromethane (10 ml), and triethylamine (0.104 ml) was added to stir the mixture at room temperature for 10 minutes. After acetic acid (0.059 ml) was added to the reaction mixture, a 35% aqueous formaldehyde solution (0.070 ml) and sodium triacetoxyborohydride (118 mg) were added, and the mixture was stirred at room temperature for 30 minutes. After a 1N aqueous solution (3 ml) of sodium hydroxide was added to the reaction mixture, water was added to conduct liquid separation. After the resultant organic layer was dried over anhydrous sodium sulfate, the solvent was then distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=50:3) to obtain a colorless foamy substance. This substance was suspended in 1N hydrochloric acid, and the suspension was concentrated under reduced pressure to obtain the title compound (85 mg) as a colorless foamy substance.

reactant | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 171 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C1=CC=2CNCCC2S1
reactant | formaldehyde | 0.070 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 118 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | acetic acid | 0.059 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.104 ml | C(C)N(CC)CC | C6H15N
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 85 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C1=CC=2CN(CCC2S1)C | InChI=1S/C24H27ClN4O2S.ClH/c1-29-9-8-21-15(13-29)12-22(32-21)24(31)28-19-5-3-2-4-18(19)27-23(30)20-11-14-10-16(25)6-7-17(14)26-20;/h6-7,10-12,18-19,26H,2-5,8-9,13H2,1H3,(H,27,30)(H,28,31);1H/t18-,19+;/m1./s1
